 
* LM339 VOLTAGE COMPARATOR "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS VERSION 4.03 ON 03/07/90 AT 14:17
* REV (N/A)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OPEN COLLECTOR OUTPUT
*                | | | | |
.SUBCKT LM339    1 2 3 4 5
*
  F1    9  3 V1 1
  IEE   3  7 DC 100.0E-6
  VI1  21  1 DC .75
  VI2  22  2 DC .75
  Q1    9 21  7 QIN
  Q2    8 22  7 QIN
  Q3    9  8  4 QMO
  Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=2.000E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=807.4E-9)
  E1   10  4  9  4  1
  V1   10 11 DC 0
  Q5    5 11  4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=20.29E3 CJC=1E-15 TF=942.6E-12 TR=543.8E-9)
  DP    4  3 DX
  RP 3  4 46.3E3
.MODEL DX  D(IS=800.0E-18)
*
.ENDS

* Model for packaged LM339 devices
* 14-pin DIP, 4 comparators per package
* CONNECTIONS:      Output 2
*                   | Output 1
*                   | | Positive Power Supply 
*                   | | | Input 1 Inverting
*                   | | | | Input 1 Non-Inverting
*                   | | | | | Input 2 Inverting
*                   | | | | | | Input 2 Non-Inverting
*                   | | | | | | | Input 3 Inverting
*                   | | | | | | | | Input 3 Non-inverting
*                   | | | | | | | | | Input 4 Inverting
*                   | | | | | | | | | |  Input 4 Non-inverting
*                   | | | | | | | | | |  |  Negative Power Supply (or Gnd)
*                   | | | | | | | | | |  |  |  Output 4
*                   | | | | | | | | | |  |  |  |  Output 3
*                   | | | | | | | | | |  |  |  |  |
.SUBCKT LM339_DIP14 1 2 3 4 5 6 7 8 9 10 11 12 13 14
X1 5  4  3 12 2  LM339
X2 7  6  3 12 1  LM339
X3 9  8  3 12 14 LM339
X4 11 10 3 12 13 LM339
.ENDS